US04321268
Preparation of 2-(p-chlorophenoxy)-isobutyric acid-p-(1-adamantylacetyl)-phenyl ester
6.75 g (25 mmol) of p-(1-adamantylacetyl)-phenol and 6 g (25.7 mmol) of 2-(p-chlorophenoxy)-isobutyric acid chloride was mixed with 60 ml of dry pyridine and kept at 40° C. for 4 hours. After addition of 40 ml of water a crystalline product was obtained which was sucked off, washed with water and dried.

reactant | p-(1-adamantylacetyl)-phenol | 25 mmol, 6.75 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)C2=CC=C(C=C2)O | C18H22O2
reactant | 2-(p-chlorophenoxy)-isobutyric acid chloride | 25.7 mmol, 6 g | ClC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10Cl2O2
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 40 ml | O | H2O
product | 2-(p-chlorophenoxy)-isobutyric acid-p-(1-adamantylacetyl)-phenyl ester | C12(CC3CC(CC(C1)C3)C2)CC(=O)C2=CC=C(C=C2)OC(C(C)(C)OC2=CC=C(C=C2)Cl)=O | C28H31ClO4
